Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfonamides / Lipitor / Naprosyn / Penicillins / Amoxicillin / 
Chocolate Flavor / Crestor / Morphine / Ativan
 
Attending: ___.
 
Chief Complaint:
fevers, chills
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
     ___ year old male with multiple medical problems including 
HTN, DM, CAD, heart failure, PVD, ESRD on HD (M.W.F) presented 
to urgent care clinic on ___ with worsening productive cough, 
rigors, and malaise. Mr. ___ was seen on the day of admission 
___ in clinic as an urgent care visit by Dr. ___ fevers 
and chills. He has had worsening of his cough that has been 
chronic since his tracheostomy was decannulated 3 months ago. 
This has been productive of white sputum. He also states that he 
vomited up food, no blood. Last 2 days he has had increasing 
frequency and volume of sputum along with chills. He states 
today he has been shaking uncontrollably. His temperature in the 
clinic 99. He denies any chest pain, dyspnea, dysuria,diarrea,  
rash. He also mentions pain around the dialysis catheter site 
without drainage. His wife was recently sick with a URI and 
notes multiple opther sick contacts including gandchildren and 
sons. Of note, he had a hernia strangulation ___ requiring 
prolonged hospitalization and ICU stay, discharged with 
tracheostomy which was decannulated 3 months ago. He was 
admitted ___ - ___ ___nd had negative stress mibi. He 
has also been having hypotension with dialysis and has been 
taken off of all of his previous BP meds as an outpatient. 
    In the ED, he was noted to be febrile to 101.7  p ___  bp 
188/82  rr 28  90% RA. He was treated with vanc/levo for 
presumptive PNA, though CXR was negative. UA was positive. Blood 
cultures were sent as well. He was admitted to medicine service 
for further management.

 
Past Medical History:
1  CAD - s/p LAD and OM1 stent in ___, s/p RCA PTCA in ___  
2. NIDDM  
3. HTN  
4. PVD s/p bilat ___ bypass surgeries (___)  
5. ESRD on HD MWF
6. cataracts  
7. gout  
8. BPH  
9. Abd hernia  
10. s/p CCY, ex-lap w/abd hernia resulting  
11. Incarcerated ventral hernia containing strangulated small  
bowel and requiring small bowel resection. This was complicated  

by a leak leading to re-operation and intubation. 

 
Social History:
___
Family History:
Fa: died secondary to colon ca  
Mo: died secondary to PNA  
Siblings: Etoh abuse, HTN  

 
Physical Exam:
VS: Temp: 97.5  BP: 149/61  HR: 55  RR: 18  O2sat: 100 RA  
GEN: resting in bed, fully awake, alert, conversant and in NAD 
HEENT: PERRL, EOMI, anicteric, MMM, op without lesions  
RESP: CTAB
CV: distant heart sounds, RR, S1 and S2 wnl, no m/r/g  
ABD: soft, NT/ND, +BS. bandage over large erythematous patch of 
skin at midline where the hernia procedure was done.
EXT: no c/c/e  

 
Pertinent Results:
CXR ___: IMPRESSION:  No evidence of acute cardiopulmonary 
process.
U/A: ___ and few bacteria, no epi, no yeast
Blood cx ___ x 2 pending
Blood cx from HD line ___

___ WBC-12.3*# RBC-3.72* Hgb-12.1* Hct-35.7* MCV-96# 
MCH-32.6*# MCHC-34.0 RDW-15.0 Plt ___ Neuts-92* Bands-4 
Lymphs-2* Monos-2 Eos-0 Baso-0 ___ Myelos-0 
Glucose-171* UreaN-82* Creat-8.2*# Na-137 K-5.6* Cl-88* HCO3-28 
AnGap-27* Lipase-55 cTropnT-0.23*

___ Calcium-8.6 Phos-5.1* Mg-1.7 Lactate-1.8 WBC-10.4 
RBC-3.27* Hgb-10.5* Hct-31.6* MCV-97 MCH-32.0 MCHC-33.1 RDW-14.9 
Plt ___ Glucose-82 UreaN-61* Creat-6.0*# Na-137 K-3.6 Cl-93* 
HCO3-29 AnGap-19 Calcium-8.6 Phos-5.1* Mg-1.7 Vanco-14.8
 
Brief Hospital Course:
The pt is a ___ with ESRD on HD, CAD s/p stent, CHF with EF 45%, 
PVD p/w fever, chills and rigor. This was felt to be most likely 
from URI, likely viral given his +sick contacts, rhinorrea, 
cough and sore throat. He also had a positive U/A for few 
bacteria and ___ WBC's, no yeast, nitrite neg indicating 
possible UTI however we didn't feel this to be a significant 
source of his fever since he denied any recent urinary symptoms. 
He was placed on Ciprofloxacin for the presumed UTI. Other 
possible sources of the fever included dialysis catherter 
infection, however it was not tender or erythematous on exam. 2 
sets of blood cultures from the line were taken however on ___ 
and should be followed up as an outpatient. He also has an 
surgical abdominal wound from ventral abdominal hernia repair 
that showed good granulation tissue and was non-tender and 
non-erythematous. He also sees wound care specialists every 2 
weeks for regular wound care. While in the ED he was started on 
vanc/levo for presumptive PNA and was later changed to 
Ciprofloxacin and vancomycin for UTI and possible line 
infection. During the hospital admission he was well-appearing 
and in no obvious distress. His WBC fluctuated during his stay 
from 12.3 on admission to 20.3, on ___, to 12.3 on ___. This 
was not concerning given his continued clinical improvement and 
the fact that he is on an appropriate antibiotic regimen. 
Vancomycin was d/c on ___ and he will be continued on 
Ciprofloxacin for total 7 days to treat his UTI. His URI, 
however, is likely viral given rhinorrhea and + sick contacts. 
So, no antibiotics were recommended at this time.      
.
2. Cardiac: He has a history of CAD s/p cypher to LAD and OM1 in 
___. His tnt was 0.23 with negative CK and MB. This troponin 
however is near his baseline and his  clinical picture and ECG 
are not worrisome for ACS. We c/w Asa 81', statin. He was not on 
BB for orthostasis at dialysis. His cardiac enzymes were checked 
x2. We decided not to cardiac enzymes given very low suspicion 
for ACS.
.
3. CHF: He has a hx of CHF with an EF 45% (___): He was 
euvolemic throughout the admission and was not on ACE or BB for 
orthostasis
.
c. Rhythm: He was a h/o wenkeback, however he was in NSR 
throughout the admission. he was placed on tele overnight and 
monitored.
.
4 ESRD on HD: He outpt. HD schedule is MWF. He was dialyzed on 
___ and was hemodynamically stable before and after the 
procedure. Of note, his oupt. HD may be overdialyzing him since 
his post-HD SBP's were 70's to ___ was communicated with 
the renal fellow, who touched base with the outpt HD center 
adressing this issue. Line blood cultures were drawn at the 
inhouse HD treatment and will be followed up on ___ after d/c. 
He was also kept on kayexalate for hyperkalemia during his stay.
.
5. FEN:  He was kept on a cardiac, renal diet throughout the 
stay.
.
6. Access:  HD line

7. PPx: pneumoboots for DVT, ppi for ulcer  

 
Medications on Admission:
Pravastain 40mg qd
Allopurinol ___ QOD 
asa 81mg qd
colchicine 0.6mg qd 
prilosec 20mg qd
sertraline 22 mg qd
sevalamer 800mg TID
nephrocaps
 
Discharge Medications:
1. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
2. Pravastatin 20 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
3. Allopurinol ___ mg Tablet Sig: One (1) Tablet PO EVERY OTHER 
DAY (Every Other Day).  
4. Colchicine 0.6 mg Tablet Sig: One (1) Tablet PO EVERY OTHER 
DAY (Every Other Day).  
5. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
6. Sertraline 50 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
7. Sevelamer HCl 800 mg Tablet Sig: One (1) Tablet PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
8. B Complex-Vitamin C-Folic Acid 1 mg Capsule Sig: One (1) Cap 
PO DAILY (Daily).  
9. Ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours): please continue for at total of 7 days (___).  
10. Acetaminophen 325 mg Tablet Sig: One (1) Tablet PO Q6H 
(every 6 hours) as needed.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Upper Respiratory tract Infection

Secondary Diagnoses:
CAD
Chronic Systolic CHF
Gout
End Stage Renal Disease on dialysis

 
Discharge Condition:
Afebrile
Hemodynamically stable

 
Discharge Instructions:
Weigh yourself every morning, call MD if weight > 3 lbs. Adhere 
to 2 gm sodium diet. Please return to the ED if you experience 
worsening of fever, nausea, vomiting or any other concerning 
symptoms.
 
Followup Instructions:
___